US08012976B2
A mixture of methyl 4-oxo-2,3-diphenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (100 mg, mmol) in hydrazine monohydrate (25 mL) was heated to reflux for 20 hr. The mixture was diluted with water (30 mL), extracted with ethyl acetate (30 mL×3). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give crude product. The crude product was purified by chromatography (silica gel, petroleum ether/ethyl acetate=20:1 to 8:1) to give 8,9-diphenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (15.6 mg, yield 16%) as a white solid. MS (ESI) m/z: 340(M+1)+. 1H-NMR (400 MHz, CDCl3) δ 4.22-4.25 (d, J=9.6 Hz, 1H), 4.66-4.69 (d, J=9.6 Hz, 1H), 7.02-7.06 (m, 3H), 7.16-7.26 (m, 8H), 7.57-7.61 (t, J=7.8 Hz, 1H), 7.74-7.76 (d, J=7.6 Hz, 1H), 9.82 (s, 1H).

reactant | methyl 4-oxo-2,3-diphenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 100 mg | O=C1C(C(NC=2C=CC=C(C12)C(=O)OC)C1=CC=CC=C1)C1=CC=CC=C1 | C23H19NO3
reactant | hydrazine monohydrate | 25 mL | O.NN
solvent | water | 30 mL | O | H2O
product | 8,9-diphenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 15.6 mg, yield 16% | C1(=CC=CC=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CC=CC=C1 | C22H17N3O
